US07776869B2
To a 100-mL round bottom flask (RBF) was added (R)-piperidin-3-ol hydrochloride (1.29 g, 9.37 mmol), sodium bicarbonate (2.76 g, 32.8 mmol), THF and 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (1.31 ml, 9.37 mmol). The yellow mixture was heated to 75° C. with a water-cooled reflux condensor and allowed to stir 14 h. The reaction was filtered through a glass frit, rinsing with EtOAc, and concentrated in vacuo to give (R)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-ol as an orange oil.

reactant | (R)-piperidin-3-ol hydrochloride | 9.37 mmol, 1.29 g | Cl.N1C[C@@H](CCC1)O
reactant | sodium bicarbonate | 32.8 mmol, 2.76 g | C([O-])(O)=O.[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | 9.37 mmol, 1.31 ml | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | water | O | H2O
product | (R)-1-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-3-ol | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1C[C@@H](CCC1)O | C12H13F3N2O3
